US08071593B2
Preparation of 3-(5-hydroxypyrimidin-2-yl)benzoic acid
160 ml (2.88 mol) of concentrated sulfuric acid are added to a suspension of 103.5 g (364 mmol) of methyl 3-[5-(dimethylaminomethyleneamino)-pyrimidin-2-yl]benzoate in 1.3 l of water, and the mixture is heated at the boil for 4 hours. The reaction mixture is cooled to room temperature, diluted with water and filtered with suction. The residue is washed with water and dried in vacuo: 3-(5-hydroxypyrimidin-2-yl)benzoic acid as brownish crystals; m.p. 293-295° C.; ESI 217 (M+H); HPLC: Rt=3.25 min (method C).

reactant | sulfuric acid | 2.88 mol, 160 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 3-[5-(dimethylaminomethyleneamino)-pyrimidin-2-yl]benzoate | 364 mmol, 103.5 g | CN(C)C=NC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C15H16N4O2
solvent | water | 1.3 l | O | H2O
product | 3-(5-hydroxypyrimidin-2-yl)benzoic acid | OC=1C=NC(=NC1)C=1C=C(C(=O)O)C=CC1 | C11H8N2O3
